US07816387B2
Methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate
A mixture of methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate obtained in Reference Example 15 322 mg (1.0 mmol), 4-phenyl-2-pyrrolidinone 177 mg (1.1 mmol), cesium carbonate 456 mg (1.4 mmol), tris(dibenzylideneacetone)dipalladium(0) 4.6 mg (0.005 mmol), Zandphos 8.7 mg (0.015 mmol) and 1,4-dioxane (2 mL) was stirred at 110° C. under argon atmosphere for 7 hours. The reaction solution was diluted with ethyl acetate and the resulting precipitates were filtered. The solvent was evaporated and the residual solid was purified by a column chromatography on silica gel (eluted with hexane/ethyl acetate=3:1→1:1) to give 329 mg (0.817 mmol) of the title compound (yield: 82%).

reactant | methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate | BrC=1C=C(C(=O)OC)C=C(C1)N(S(=O)(=O)C)C | C10H12BrNO4S
reactant | 4-phenyl-2-pyrrolidinone | 1.1 mmol, 177 mg | C1(=CC=CC=C1)C1CC(NC1)=O | C10H11NO
reactant | cesium carbonate | 1.4 mmol, 456 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate | 0.817 mmol, 329 mg, yield: 82% | CN(C=1C=C(C(=O)OC)C=C(C1)N1C(CC(C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C20H22N2O5S
